US07012080B2
Step 1. 1-(2,2-dimethylpropyl)piperidine-4-carboxyamide
To a solution of isonipecotamide (2 g, 15.6 mmol) and pivalaldehyde (2.0 mL, 18.7 mmol) in tetrahydrofuran (200 mL) was added titanium(IV) isopropoxide (4.6 mL, 15.6 mmol) and the mixture was stirred at room temperature for 21 h under nitrogen. Solvent was removed, the residue was dissolved in ethanol (60 mL) and sodium cyanoborohydride (1.6 g, 23.4 mmol) was added at room temperature. After stirring for 89 h, water (30 mL) was added, obtained precipitate was removed by filtration and the filtrate was concentrated. The residue was treated with water (30 mL) basified with 2 N sodium hydroxide, extracted with dichloromethane (30 mL×3) and washed with brine (30 mL). The organic extracts were dried over sodium sulfate and concentrated to give a white solid, which was purified by flash column chromatography on silica gel eluting with dichloromethane/methanol/25% ammonia solution (20:1:0.1) to affoad 715 mg (23%) of the title compound as a white solid.

reactant | isonipecotamide | 15.6 mmol, 2 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | pivalaldehyde | 18.7 mmol, 2.0 mL | C(C(C)(C)C)=O | C5H10O
reactant | sodium cyanoborohydride | 23.4 mmol, 1.6 g | C(#N)[BH3-].[Na+]
reactant | water | 30 mL | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
catalyst | titanium(IV) isopropoxide | 15.6 mmol, 4.6 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-(2,2-dimethylpropyl)piperidine-4-carboxyamide | CC(CN1CCC(CC1)CC(=O)N)(C)C | C12H24N2O
